US09290490B2
To a solution of methyl 4-{hydroxyl[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2 yl]methyl}cyclohexanecarboxylate in methanol (1.96 mL) was added 1N NaOH (0.79 mL, 0.79 mmol) and the mixture was stirred at room temperature for 16 h. THF (1.96 mL) was added and the mixture was stirred at 60° C. for 6 h, then cooled to room temperature and added HCl (1M in H2O) until the pH=3. The mixture was diluted with 3:1 CHCl3:isopropanol and the organic layers were separated, dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography to afford 4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxylic acid as a white solid. The cis and trans isomers were separated by supercritical fluid chromatography (chiral OJ column, 1:3 methanol/CO2 with an 11 minute run time). Characterization data for the cis isomer (Rt=5.15 min): MS ESI calc'd. for C23H24F3N4O3S [M+H]+ 493. found 493. 1H NMR (500 MHz, CD3OD) δ 8.69 (d, J=4.8, 1H), 8.00 (s, 1H), 7.91 (s, 1H), 7.43 (s, 1H), 7.11 (s, 1H), 7.10 (s, 1H), 4.68 (d, J=5.1, 1H), 3.34 (s, 1H), 2.36 (s, 3H), 2.20 (m, 1H), 2.02 (m, 2H), 1.84 (m, 2H), 1.70 (m, 1H), 1.50-1.18 (m, 3H). Second eluting enantiomer Rt=8.26 min.

reactant | methyl 4-{hydroxyl[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2 yl]methyl}cyclohexanecarboxylate | OC(C1CCC(CC1)C(=O)OC)C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C24H25F3N4O3S
reactant | NaOH | 0.79 mmol, 1N, 0.79 mL | [OH-].[Na+]
reactant | THF | 1.96 mL | C1CCOC1 | C4H8O
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 1.96 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxylic acid | OC(C1CCC(CC1)C(=O)O)C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C23H23F3N4O3S
